US05451596
A mixture of trans-2-aminocyclopentanol (45.84 mmol), triphenylmethylchloride (11.50 g; 41.26 mmol) and triethylamine (15.97 ml; 114.60 mmol) in 100 ml CH2Cl2 is refluxed overnight. The reaction mixture is cooled and concentrated in vacuo and flash chromatographed using 5:1; hexane:EtOAc to obtain trans-2-triphenylmethylaminocyclopentanol which is used directly in the next step.

reactant | trans-2-aminocyclopentanol | 45.84 mmol | N[C@H]1[C@@H](CCC1)O | C5H11NO
reactant | triphenylmethylchloride | 41.26 mmol, 11.50 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 114.60 mmol, 15.97 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | trans-2-triphenylmethylaminocyclopentanol | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H]1[C@@H](CCC1)O | C24H25NO
